US07723378B2
To a solution of 3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (2.10 g, 8.81 mmol) in diethyl ether (100 mL), a solution of methyllithium (11 mL, 1.6 M solution in diethyl ether) is added at rt. The pale yellow solution is stirred at rt for 15 min before another portion of methyllithium (2 mL) is added. Stirring is continued for 15 min, a further portion of methyllithium (1 mL) is added, and the mixture is again stirred for 15 min at rt. The reaction is quenched with water. The organic layer is separated, washed once more with water, dried over MgSO4 and evaporate. The crude product is purified by CC on silica gel eluting with heptane:EA 7:3 to give 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (1.65 g) as a pale yellow solid; LC-MS: tR=1.00 min, [M+1]=237.15; 1H NMR (CDCl3): δ 3.03 (t, J=7.0 Hz, 2H), 2.73 (q, J=7.6 Hz, 2H), 2.47 (s, 3H), 2.31 (s, 2H), 1.55 (t, J=7.0 Hz, 2H), 1.28 (t, J=7.6 Hz, 3H), 0.97 (s, 6H).

reactant | 3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 8.81 mmol, 2.10 g | C(C)C1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C13H18O2S
reactant | methyllithium | 1.6 M, 11 mL | C[Li]
reactant | methyllithium | 2 mL | C[Li]
reactant | methyllithium | 1 mL | C[Li]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 1.65 g | C(C)C1=C2C(=C(S1)C(C)=O)CCC(C2)(C)C | C14H20OS
